.suckt  three_stage_fully_differential_op_amp_2_11_102 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m2 outInputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m3 outVoltageBiasXXpXX3 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m4 inputVoltageBiasXXpXX4 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m5 outInputVoltageBiasXXnXX1 inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m6 inputVoltageBiasXXnXX3 inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m7 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m8 outFeedback outFeedback sourceNmos sourceNmos nmos
m9 FeedbackStageYsourceTransconductance1 outVoltageBiasXXpXX3 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m10 FeedbackStageYinnerStageBias1 inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m11 FeedbackStageYsourceTransconductance2 outVoltageBiasXXpXX3 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m12 FeedbackStageYinnerStageBias2 inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m13 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m14 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m15 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m16 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m17 out1FirstStage outFeedback sourceNmos sourceNmos nmos
m18 out2FirstStage outFeedback sourceNmos sourceNmos nmos
m19 FirstStageYsourceTransconductance inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
m20 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m21 out2FirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m22 out1SecondStage outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m23 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m24 out1SecondStage out1FirstStage sourcePmos sourcePmos pmos
m25 out2SecondStage ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos
m26 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m27 out2SecondStage out2FirstStage sourcePmos sourcePmos pmos
m28 out1 inputVoltageBiasXXnXX3 ThirdStage1YinnerTransconductance ThirdStage1YinnerTransconductance nmos
m29 ThirdStage1YinnerTransconductance out1SecondStage sourceNmos sourceNmos nmos
m30 out1 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos
m31 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m32 out2 inputVoltageBiasXXnXX3 ThirdStage2YinnerTransconductance ThirdStage2YinnerTransconductance nmos
m33 ThirdStage2YinnerTransconductance out2SecondStage sourceNmos sourceNmos nmos
m34 out2 outInputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos
m35 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m36 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m37 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m38 ibias ibias VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos
m39 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m40 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos
m41 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos
m42 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m43 outInputVoltageBiasXXpXX2 outInputVoltageBiasXXpXX2 VoltageBiasXXpXX2Yinner VoltageBiasXXpXX2Yinner pmos
m44 VoltageBiasXXpXX2Yinner outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m45 outVoltageBiasXXpXX3 outVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m46 inputVoltageBiasXXpXX4 inputVoltageBiasXXpXX4 sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_2_11_102

