.suckt  three_stage_fully_differential_op_amp_6_11_100 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m3 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m4 outInputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m5 inputVoltageBiasXXnXX3 ibias sourcePmos sourcePmos pmos
m6 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m7 outFeedback outFeedback sourceNmos sourceNmos nmos
m8 FeedbackStageYsourceTransconductance1 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m9 FeedbackStageYinnerStageBias1 ibias sourcePmos sourcePmos pmos
m10 FeedbackStageYsourceTransconductance2 outVoltageBiasXXpXX1 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m11 FeedbackStageYinnerStageBias2 ibias sourcePmos sourcePmos pmos
m12 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m13 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m14 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m15 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m16 out1FirstStage inputVoltageBiasXXnXX3 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos
m17 FirstStageYsourceGCC1 outFeedback sourceNmos sourceNmos nmos
m18 out2FirstStage inputVoltageBiasXXnXX3 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos
m19 FirstStageYsourceGCC2 outFeedback sourceNmos sourceNmos nmos
m20 out1FirstStage ibias sourcePmos sourcePmos pmos
m21 out2FirstStage ibias sourcePmos sourcePmos pmos
m22 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos
m23 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
m24 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m25 out1SecondStage outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m26 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m27 out1SecondStage out1FirstStage sourcePmos sourcePmos pmos
m28 out2SecondStage outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos
m29 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m30 out2SecondStage out2FirstStage sourcePmos sourcePmos pmos
m31 out1 inputVoltageBiasXXnXX3 ThirdStage1YinnerTransconductance ThirdStage1YinnerTransconductance nmos
m32 ThirdStage1YinnerTransconductance out1SecondStage sourceNmos sourceNmos nmos
m33 out1 outVoltageBiasXXpXX1 ThirdStage1YinnerStageBias ThirdStage1YinnerStageBias pmos
m34 ThirdStage1YinnerStageBias ibias sourcePmos sourcePmos pmos
m35 out2 inputVoltageBiasXXnXX3 ThirdStage2YinnerTransconductance ThirdStage2YinnerTransconductance nmos
m36 ThirdStage2YinnerTransconductance out2SecondStage sourceNmos sourceNmos nmos
m37 out2 outVoltageBiasXXpXX1 ThirdStage2YinnerStageBias ThirdStage2YinnerStageBias pmos
m38 ThirdStage2YinnerStageBias ibias sourcePmos sourcePmos pmos
m39 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m40 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m41 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m42 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos
m43 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m44 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos
m45 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos
m46 ibias ibias sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_6_11_100

