.suckt  three_stage_fully_differential_op_amp_11_9_134 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 inputVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m2 outVoltageBiasXXpXX2 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m3 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos
m4 outInputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos
m5 outInputVoltageBiasXXnXX2 ibias sourcePmos sourcePmos pmos
m6 inputVoltageBiasXXnXX3 ibias sourcePmos sourcePmos pmos
m7 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m8 outFeedback outFeedback sourceNmos sourceNmos nmos
m9 FeedbackStageYsourceTransconductance1 ibias sourcePmos sourcePmos pmos
m10 FeedbackStageYsourceTransconductance2 ibias sourcePmos sourcePmos pmos
m11 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m12 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m13 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m14 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m15 out1FirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos
m16 out2FirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos
m17 out1FirstStage inputVoltageBiasXXnXX3 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos
m18 FirstStageYinnerTransistorStack1Load2 outFeedback sourceNmos sourceNmos nmos
m19 out2FirstStage inputVoltageBiasXXnXX3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos
m20 FirstStageYinnerTransistorStack2Load2 outFeedback sourceNmos sourceNmos nmos
m21 sourceTransconductance ibias sourcePmos sourcePmos pmos
m22 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos
m23 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m24 out1SecondStage outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos
m25 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m26 out1SecondStage outVoltageBiasXXpXX2 SecondStage1YinnerTransconductance SecondStage1YinnerTransconductance pmos
m27 SecondStage1YinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos
m28 out2SecondStage outInputVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos
m29 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m30 out2SecondStage outVoltageBiasXXpXX2 SecondStage2YinnerTransconductance SecondStage2YinnerTransconductance pmos
m31 SecondStage2YinnerTransconductance out2FirstStage sourcePmos sourcePmos pmos
m32 out1 inputVoltageBiasXXnXX3 ThirdStage1YinnerTransconductance ThirdStage1YinnerTransconductance nmos
m33 ThirdStage1YinnerTransconductance out1SecondStage sourceNmos sourceNmos nmos
m34 out1 ibias sourcePmos sourcePmos pmos
m35 out2 inputVoltageBiasXXnXX3 ThirdStage2YinnerTransconductance ThirdStage2YinnerTransconductance nmos
m36 ThirdStage2YinnerTransconductance out2SecondStage sourceNmos sourceNmos nmos
m37 out2 ibias sourcePmos sourcePmos pmos
m38 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos
m39 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos
m40 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m41 outInputVoltageBiasXXnXX2 outInputVoltageBiasXXnXX2 VoltageBiasXXnXX2Yinner VoltageBiasXXnXX2Yinner nmos
m42 VoltageBiasXXnXX2Yinner outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos
m43 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos
m44 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos
m45 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m46 ibias ibias sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_11_9_134

