.suckt  three_stage_fully_differential_op_amp_12_12_23 ibias in1 in2 out1 out2 sourceNmos sourcePmos vref
c1 out1FirstStage out1 
c2 out2FirstStage out2 
m1 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos
m2 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos
m3 inputVoltageBiasXXpXX3 ibias sourceNmos sourceNmos nmos
m4 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m5 FeedbackStageYout1 FeedbackStageYout1 sourceNmos sourceNmos nmos
m6 outFeedback outFeedback sourceNmos sourceNmos nmos
m7 FeedbackStageYsourceTransconductance1 outVoltageBiasXXpXX2 FeedbackStageYinnerStageBias1 FeedbackStageYinnerStageBias1 pmos
m8 FeedbackStageYinnerStageBias1 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m9 FeedbackStageYsourceTransconductance2 outVoltageBiasXXpXX2 FeedbackStageYinnerStageBias2 FeedbackStageYinnerStageBias2 pmos
m10 FeedbackStageYinnerStageBias2 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m11 FeedbackStageYout1 out2 FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m12 outFeedback vref FeedbackStageYsourceTransconductance1 FeedbackStageYsourceTransconductance1 pmos
m13 FeedbackStageYout1 out1 FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m14 outFeedback vref FeedbackStageYsourceTransconductance2 FeedbackStageYsourceTransconductance2 pmos
m15 out1FirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos
m16 out2FirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos
m17 out1FirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos
m18 FirstStageYinnerTransistorStack1Load2 outFeedback sourceNmos sourceNmos nmos
m19 out2FirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos
m20 FirstStageYinnerTransistorStack2Load2 outFeedback sourceNmos sourceNmos nmos
m21 sourceTransconductance inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m22 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos
m23 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos
c3 out1 sourceNmos 
c4 out2 sourceNmos 
m24 out1SecondStage inputVoltageBiasXXnXX1 SecondStage1YinnerTransconductance SecondStage1YinnerTransconductance nmos
m25 SecondStage1YinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos
m26 out1SecondStage inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m27 out2SecondStage inputVoltageBiasXXnXX1 SecondStage2YinnerTransconductance SecondStage2YinnerTransconductance nmos
m28 SecondStage2YinnerTransconductance out2FirstStage sourceNmos sourceNmos nmos
m29 out2SecondStage inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
m30 out1 inputVoltageBiasXXnXX1 ThirdStage1YinnerStageBias ThirdStage1YinnerStageBias nmos
m31 ThirdStage1YinnerStageBias ibias sourceNmos sourceNmos nmos
m32 out1 outVoltageBiasXXpXX2 ThirdStage1YinnerTransconductance ThirdStage1YinnerTransconductance pmos
m33 ThirdStage1YinnerTransconductance out1SecondStage sourcePmos sourcePmos pmos
m34 out2 inputVoltageBiasXXnXX1 ThirdStage2YinnerStageBias ThirdStage2YinnerStageBias nmos
m35 ThirdStage2YinnerStageBias ibias sourceNmos sourceNmos nmos
m36 out2 outVoltageBiasXXpXX2 ThirdStage2YinnerTransconductance ThirdStage2YinnerTransconductance pmos
m37 ThirdStage2YinnerTransconductance out2SecondStage sourcePmos sourcePmos pmos
m38 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos
m39 ibias ibias sourceNmos sourceNmos nmos
m40 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos
m41 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos
m42 inputVoltageBiasXXpXX3 inputVoltageBiasXXpXX3 sourcePmos sourcePmos pmos
.end three_stage_fully_differential_op_amp_12_12_23

